US07700786B2
Triethylamine (0.17 g, 1.65 mmol) and ethyl isocyanate (0.31 g, 2.2 mmol) were added to a solution of 3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole (0.55 g, 2.0 mmol) in ethyl acetate (5 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/15), to give a colorless viscous substance of N-ethyl-3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.53 g, yield: 75.9%). 1H-NMR (CDCl3, TMS, ppm): δ 1.22 (t, J=7.3 Hz, 3H), 2.59 (d, J=0.7 Hz, 3H), 3.37 (q, J=7.3 Hz, 2H), 5.73 (q, J=0.7 Hz, 1H), 6.91 (br s, 1H), 7.22 (d, J=8.8 Hz, 1H), 7.49 (dd, J=2.5 and 8.8 Hz, 1H), 7.65 (d, J=2.5 Hz, 1H).

reactant | Triethylamine | 1.65 mmol, 0.17 g | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 2.2 mmol, 0.31 g | C(C)N=C=O | C3H5NO
reactant | 3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole | 2.0 mmol, 0.55 g | ClC1=CC(=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H8ClF3N2O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(4-chloro-2-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.53 g, yield: 75.9% | C(C)NC(=O)N1N=C(C=C1C)OC1=C(C=C(C=C1)Cl)C(F)(F)F | C14H13ClF3N3O2
